US08067408B2
To the solution of {[(3-bromophenyl)methyl]oxy}(dimethyl)silane-2,2-dimethylpropane (1:1) (100.0 g, 331.9 mmol) in THF (500 mL), which was cooled to −78° C., n-BuLi (132.7 mL, 331.9 mmol) was added dropwise. The mixture was stirred for 1 h at −78° C., then B(OBu)3 (107.5 mL, 398.2 mmol) was added one portion. The reaction mixture was warmed to room temperature, and stirred over night. After cooled to 0° C., 5% H3PO4 was added to pH=4-5, the mixture was stirred 0.5 h, then was filtered. After removing THF, the residue was extracted with Et2O (200 mL×2), and the organic layer was dried over Na2SO4. After removing the solvent, the residue was added to water, and white solid was precipitated which was dried in vacuo. 65.7 g of [3-({[(1,1-dimethylethyl)-(dimethyl)silyl]oxy}methyl)phenyl]boronic acid was obtained (Yield: 74.5%). 1H NMR (400 MHz, CDCl3): δ 0.14 (s, 6 H), 0.98 (s 9 H), 4.88 (s, 2 H), 7.49-7.59 (m, 2 H), 8.14 (d, J=7.6 Hz, 1 H), 8.19 (s, 1 H).

reactant | {[(3-bromophenyl)methyl]oxy}(dimethyl)silane 2,2-dimethylpropane | 331.9 mmol, 100.0 g | BrC=1C=C(C=CC1)CO[SiH](C)C.CC(C)(C)C
reactant | n-BuLi | 331.9 mmol, 132.7 mL | [Li]CCCC
reactant | B(OBu)3 | 398.2 mmol, 107.5 mL | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | [3-({[(1,1-dimethylethyl)-(dimethyl)silyl]oxy}methyl)phenyl]boronic acid | 65.7 g, Yield: 74.5% | CC(C)(C)[Si](OCC=1C=C(C=CC1)B(O)O)(C)C | C13H23BO3Si
